US04876352
Chlorotrifluoroethylene (454 g; 3.91 mole) is bubbled into diethylamine (350 g; 4.8 mole) over about 6 hours while the temperature is maintained at 30°-45° C. by use of an ice bath. The mixture is stirred overnight at room temperature and then distilled in vacuo to give 415 g (2.2M) of N-(2-chloro-1,1,2-trifluoroethyl)-diethylamine.

reactant | Chlorotrifluoroethylene | 3.91 mole, 454 g | ClC(=C(F)F)F | C2ClF3
reactant | diethylamine | 4.8 mole, 350 g | C(C)NCC | C4H11N
product | N-(2-chloro-1,1,2-trifluoroethyl)-diethylamine | 2.2M, 415 g | ClC(C(F)(F)N(CC)CC)F | C6H11ClF3N
